US05015744
To a solution of 962 mg (4.56 mmol) of the imine derived from benzaldehyde and p-methoxy aniline, and 0.85 mL (6.07 mmol) of triethylamine in 15 mL of CH2Cl2 at -20° C. was added dropwise a solution of 412 mg (3.04 mmol) of α-acetoxy acetyl chloride in 15 mL of CH2Cl2. The reaction mixture was allowed to warm to 25° C. over an 18 h period. The reaction mixture was then diluted with 100 mL of CH2Cl2 and the solution was extracted with 30 mL of 10% aqueous HCl. The organic layer was washed with 30 mL of water and 30 mL of saturated aqueous sodium bicarbonate, dried over sodium sulfate, and concentrated to provide a solid mass. The solid was triturated with 50 mL of hexane and the mixture was filtered. The remaining solid was recrystallized from ethyl acetate/hexane to give 645 mg (68%) of cis-1-p-methoxyphenyl-3-acetoxy-4-phenylazetidin-2-one as white crystals, m.p. 163° C.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-methoxy aniline | COC1=CC=C(N)C=C1 | C7H9NO
reactant | triethylamine | 6.07 mmol, 0.85 mL | C(C)N(CC)CC | C6H15N
reactant | α-acetoxy acetyl chloride | 3.04 mmol, 412 mg | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | cis-1-p-methoxyphenyl-3-acetoxy-4-phenylazetidin-2-one | 645 mg, 68% | COC1=CC=C(C=C1)N1C([C@H]([C@H]1C1=CC=CC=C1)OC(C)=O)=O | C18H17NO4
